US05962682
0.626 g of methyl 3-amino-4-(2-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate was dissolved in pyridine (30 ml), treated dropwise while cooling with ice with a solution of 0.593 g of 4-methylsulphanylbenzenesulphonyl chloride in toluene (10 ml) and subsequently stirred at RT for 20 hours. The reaction mixture was poured on to ice/3M HCl, the product was extracted with ethyl acetate and the organic phase was dried over magnesium sulphate. After removing the solvent there was obtained methyl 4-(2-methoxy-phenoxy)-3-(4-methylsulphanyl-benzenesulphonylamino)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate as a yellow oil.

reactant | methyl 3-amino-4-(2-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | 0.626 g | NC=1C=C(C(=O)OC)C=C(C1OC1=C(C=CC=C1)OC)OCCOC1OCCCC1 | C22H27NO7
reactant | 4-methylsulphanylbenzenesulphonyl chloride | 0.593 g | CSC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(2-methoxy-phenoxy)-3-(4-methylsulphanyl-benzenesulphonylamino)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | COC1=C(OC2=C(C=C(C(=O)OC)C=C2OCCOC2OCCCC2)NS(=O)(=O)C2=CC=C(C=C2)SC)C=CC=C1 | C29H33NO9S2
